US09029531B2
2,2′-(Cyclobutane-1,3-diyl)diacetonitrile (I-14)
To a solution of cyclobutane-1,3-diylbis(methylene)bis(4-methylbenzenesulfonate) I-13 (1 equivalent) in DMF was added NaCN (6 equivalents) and was refluxed for 12 h. During workup, the reaction mixture was diluted with water and the desired compound was extracted with ethyl acetate. Evaporation of the organic solvent furnished I-14.

reactant | cyclobutane-1,3-diylbis(methylene)bis(4-methylbenzenesulfonate) | C1(CC(C1)CC1=C(C=CC(=C1)C)S(=O)(=O)[O-])CC1=C(C=CC(=C1)C)S(=O)(=O)[O-]
reactant | NaCN | 6 equivalents | [C-]#N.[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,2′-(Cyclobutane-1,3-diyl)diacetonitrile | C1(CC(C1)CC#N)CC#N | C8H10N2
